### PR TITLE
[Merged by Bors] - feat: Relative Sylow's first theorems

### PR DESCRIPTION
**Pull request by YaelDillies**
Prove variants of Sylow' first theorem relative to a subgroup.

From PFR

Co-authored-by: Sébastien Gouëzel <sebastien.gouezel@univ-rennes1.fr>

---

- [x] depends on: #8943

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/Sylow.lean [hunk 1]
```diff
@@ -653,6 +653,33 @@ theorem exists_subgroup_card_pow_prime [Fintype G] (p : ℕ) {n : ℕ} [Fact p.P
...
+
+lemma exists_subgroup_le_card_pow_prime_of_le_card {m p : ℕ} (hp : p.Prime) (h : IsPGroup p G)
+    {H : Subgroup G} (hm : p ^ m ≤ Nat.card H) : ∃ H' ≤ H, Nat.card H' = p ^ m := by
+  obtain ⟨H', H'card⟩ := exists_subgroup_card_pow_prime_of_le_card hp (h.to_subgroup H) hm
+  refine ⟨H'.map H.subtype, map_subtype_le _, ?_⟩
+  rw [← H'card]
+  let e : H' ≃* H'.map H.subtype := H'.equivMapOfInjective (Subgroup.subtype H) H.subtype_injective
+  exact Nat.card_congr e.symm.toEquiv
+
+lemma exists_subgroup_subset_card_le {k p : ℕ} (hp : p.Prime) (h : IsPGroup p G) {H : Subgroup G}
```
Comment (jcommelin) [inline Mathlib/GroupTheory/Sylow.lean:675]:
```suggestion
lemma exists_subgroup_le_card_le {k p : ℕ} (hp : p.Prime) (h : IsPGroup p G) {H : Subgroup G}
```
In the lemma above you also used `le` instead of `subset`...

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
